US05244908
(1) Synthesis of 5-[2-(amino)ethylthio]-2-methylimidazo[1,2-a]pyridine
To a suspension of cysteamine hydrochloride (2.95 g, 26 mmoles) in ethanol (100 ml) was added 60% sodium hydride (oily; 2.08 g, 26 mmoles) with stirring under ice-cooling and the mixture was stirred for 5 minutes. 5-chloro-2-methylimidazo[1,2-a]pyridine (3.33 g, 20 mmoles) was added to the mixture, followed by heating at reflux for 3 hours. After the solvent was distilled off, chloroform was added to the residue which was washed with 1N-NaOH and dried over anhydrous potassium carbonate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate/ethanol/triethylamine=6:2:1) to obtain 2.2 g of the desired product (53.6%, brown oily product).

reactant | cysteamine hydrochloride | 26 mmoles, 2.95 g | Cl.NCCS
reactant | sodium hydride | 26 mmoles, 2.08 g | [H-].[Na+]
reactant | 5-chloro-2-methylimidazo[1,2-a]pyridine | 20 mmoles, 3.33 g | ClC1=CC=CC=2N1C=C(N2)C | C8H7ClN2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[2-(amino)ethylthio]-2-methylimidazo[1,2-a]pyridine | 2.2 g, 53.6% | NCCSC1=CC=CC=2N1C=C(N2)C | C10H13N3S
